US07465798B2
Intermediate 31: Acetic acid 3-(4-cyano-phenyl)-2-oxo-propyl ester
This crude material was reacted with acetic acid (1.42 mL, 1.49 g, 24.8 mmol) and triethylamine (3.46 mL, 2.51 g, 24.8 mmol), as described above for the synthesis of 3-(3,4-dichlorophenyl)propan-2-one. Flash chromatography over silica gel (10-30% ethyl acetate in hexanes) gave pure product (0.71 g, 25% yield). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.09 (s, 3H) 3.96 (s, 2H) 4.88 (s, 2H) 7.40 (d, J=8.34 Hz, 2H) 7.79 (d, J=8.59 Hz, 2H).

reactant | acetic acid | 24.8 mmol, 1.42 mL, 1.49 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 24.8 mmol, 3.46 mL, 2.51 g | C(C)N(CC)CC | C6H15N
reactant | 3-(3,4-dichlorophenyl)propan-2-one | ClC=1C=C(C=CC1Cl)CC(C)=O | C9H8Cl2O
product | Acetic acid 3-(4-cyano-phenyl)-2-oxo-propyl ester | 0.71 g, 25% yield | C(#N)C1=CC=C(C=C1)CC(COC(C)=O)=O | C12H11NO3
